US05401752
In 50 ml of a solution containing 0.75 g of 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline in ether, hydrogen chloride gas was bubbled for 40 minutes at room temperature under stirring. The generated crystals were collected by filtration and washed with ether to obtain 0.7 g of 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrogen chloride salt m.p.: decomposed at 243° C.

reactant | 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.75 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC=CC=C2C1)C | C20H25N
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrogen chloride salt | 0.7 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC=CC=C2C1)C | InChI=1S/C20H25N.ClH/c1-20(2,3)18-11-9-15(10-12-18)19-13-16-7-5-6-8-17(16)14-21(19)4;/h5-12,19H,13-14H2,1-4H3;1H
